US07816020B2
In a 500-ml four-necked flask were placed 22.4 g (0.10 mole) of 1,3-diphenylpropanedione, 20.0 g (0.13 mole) of p-nitrophenylhydrazine, and 200.7 g of toluene. The mixture was then heated under reflux with stirring for three hours. Upon completion of the reaction, the reaction mixture was cooled to room temperature and a solid was recovered by filtration. The filtrate was concentrated under reduced pressure to dryness. The residue was purified by reslurrying by adding 300 ml of methanol. Thereafter, the residue was cooled to room temperature and a solid was recovered by filtration. The solid was washed with methanol and dried under reduced pressure to give 26.0 g of 1-(p-nitrophenyl)-3,5-diphenylpyrazole.

reactant | 1,3-diphenylpropanedione | 0.10 mole, 22.4 g | C1(=CC=CC=C1)C(C(CC1=CC=CC=C1)=O)=O | C15H12O2
reactant | p-nitrophenylhydrazine | 0.13 mole, 20.0 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
solvent | toluene | 200.7 g | C1(=CC=CC=C1)C | C7H8
product | 1-(p-nitrophenyl)-3,5-diphenylpyrazole | 26.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(C=C1C1=CC=CC=C1)C1=CC=CC=C1 | C21H15N3O2
